US06586633B1
Production of N-[4-(1-Methyl-1-phenylethyl)benzyl]-methylamine
4-(1-Methyl-1-phenylethyl)benzaldehyde (3.61 g; 16.1 mmol) and molecular sieves (4 angstroms: about five granules) were added to 40% methylamine in methanol (40 ml), and the mixture was stirred overnight at room temperature. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was taken up in ether (100 ml), and the organic layer was washed with saturated brine, followed by drying over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in methanol (25 ml). Sodium borohydride (0.70 g) was added to the solution, and the thus-obtained mixture was heated for 1 hour at 50° C. The solvent was evaporated under reduced pressure, and the residue was taken up in ether (100 ml). The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethanol (10 ml). Excess amount of 4N hydrochloric acid—ethyl acetate was added to the solution, and the solvent was evaporated under reduced pressure. The residue was taken up in isopropyl ether (100 ml), and white crystals that precipitated were collected by filtration. The crystals were converted into their free forms by use of aqueous sodium hydroxide solution, followed by extraction with ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby yield 2.49 g of the target compound as orange oily matter (yield: 64.6%).

reactant | 4-(1-Methyl-1-phenylethyl)benzaldehyde | 16.1 mmol, 3.61 g | CC(C)(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C16H16O
reactant | methylamine | CN | CH5N
solvent | methanol | 40 ml | CO | CH4O
product | N-[4-(1-Methyl-1-phenylethyl)benzyl]-methylamine | yield: 64.6% | CC(C)(C1=CC=CC=C1)C1=CC=C(CNC)C=C1 | C17H21N
